US06274593B1
6-Methoxy-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline
A mixture of 6-methoxy-1,2,3,4-tetrahydroisoquinoline (1.00 g, 6.2 mmol), 4-(4-phenylbenzoylamino)butyraldehyde (1.64 g, 6.2 mmol), sodium triacetoxyborohydride (1.94 g, 9.2 mmol) and dichloromethane (50 ml) was stirred at 20° C. for 18 h. Resulting solution was partitioned between saturated aqueous NAHCO3 (50 ml) and dichloromethane (3×50 ml). Combined organic extracts were dried (Na2SO4) and evaporated in vacuo to give a solid. Trituration with 1:1 dichloromethane-ether gave the title compound (0.80 g, 32%).

reactant | 6-methoxy-1,2,3,4-tetrahydroisoquinoline | 6.2 mmol, 1.00 g | COC=1C=C2CCNCC2=CC1 | C10H13NO
reactant | 4-(4-phenylbenzoylamino)butyraldehyde | 6.2 mmol, 1.64 g | C1(=CC=CC=C1)C1=CC=C(C(=O)NCCCC=O)C=C1 | C17H17NO2
reactant | sodium triacetoxyborohydride | 9.2 mmol, 1.94 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-Methoxy-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 0.80 g, 32% | COC=1C=C2CCN(CC2=CC1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C27H30N2O2
